US07576074B2
A solution of (4R)-1,3-thiazolidin-4-ylmethanol (0.300 g, 2.52 mmol) in 2-(chloromethyl)oxirane (2.0 mL, 25.5 mmol) was heated under nitrogen to 40° C. for 12 h. The solution was then cooled to room temperature and 2-(chloromethyl)oxirane was removed in vacuo. The crude intermediate was cooled in ice, and was taken up in 2.0 mL of concentrated sulfuric acid. The resulting mixture was heated to 200° C. for 0.5 h then poured carefully onto wet ice, which was allowed to melt. The aqueous solution was carefully made basic using solid sodium bicarbonate and the resulting mixture was filtered using water and 10% methanol in ethyl acetate as eluent. The layers were separated and the aqueous layer was extracted with 10% methanol in ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give 11.6 mg (2.4% yield) of crude (8aR)-6-(chloromethyl)tetrahydro-1H-[1,3]thiazolo[4,3-c][1,4]oxazine as a mixture of diastereomers which was directly taken on to the next step.

reactant | (4R)-1,3-thiazolidin-4-ylmethanol | 2.52 mmol, 0.300 g | S1CN[C@@H](C1)CO | C4H9NOS
reactant | 2-(chloromethyl)oxirane | 25.5 mmol, 2.0 mL | ClCC1OC1 | C3H5ClO
product | (8aR)-6-(chloromethyl)tetrahydro-1H-[1,3]thiazolo[4,3-c][1,4]oxazine | 11.6 mg, 2.4% yield | ClCC1CN2[C@H](CO1)CSC2 | C7H12ClNOS
